US05637593
Treatment of a cooled solution of N,N,N',N'-tetramethyldiaminomethane (0.26 g, 0.34 mL, 2.50 mmol) in CH2Cl2 (7.3 mL) with acetyl chloride (0.20 g, 0.18 mL, 2.53 mmol) followed by a solution of 5-(3-trifluoromethylphenoxy) indole (0.50 g, 1.79 mmol) in CH2Cl2 (6.2 mL), gave after work-up: 3-(N,N-dimethylaminomethyl)-5-(3-trifluoromethylphenoxy)indole as a gum. This was treated with finely ground potassium cyanide (0.45 g, 6.9 mmol) and methyl iodide (1.03 g, 0.45 mL, 7.26 mmol) in DMF (9 mL) for 16 hr, and after appropriate work-up and chromatography (silica gel; hexane/Et2O; 0-45%) 3-cyanomethyl-5-(3-trifluoromethylphenoxy)indole was obtained as an almost colourless gum, 0.415 g (73%).

reactant | N,N,N',N'-tetramethyldiaminomethane | 2.50 mmol, 0.34 mL, 0.26 g | CN(C)CN(C)C | C5H14N2
reactant | acetyl chloride | 2.53 mmol, 0.18 mL, 0.20 g | C(C)(=O)Cl | C2H3ClO
reactant | 5-(3-trifluoromethylphenoxy) indole | 1.79 mmol, 0.50 g | FC(C=1C=C(OC=2C=C3C=CNC3=CC2)C=CC1)(F)F | C15H10F3NO
reactant | 3-(N,N-dimethylaminomethyl)-5-(3-trifluoromethylphenoxy)indole | CN(C)CC1=CNC2=CC=C(C=C12)OC1=CC(=CC=C1)C(F)(F)F | C18H17F3N2O
reactant | potassium cyanide | 6.9 mmol, 0.45 g | [C-]#N.[K+]
reactant | methyl iodide | 7.26 mmol, 0.45 mL, 1.03 g | CI | CH3I
solvent | CH2Cl2 | 7.3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 6.2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 3-cyanomethyl-5-(3-trifluoromethylphenoxy)indole | 0-45% | C(#N)CC1=CNC2=CC=C(C=C12)OC1=CC(=CC=C1)C(F)(F)F | C17H11F3N2O
